US07951810B2
Step a: (1S,2R,4R)-4-{[6-Chloro-5-(2,2-diethoxyethyl)pyrimidin-4-yl]amino}-2-(hydroxymethyl)cyclopentanol
A solution of (1S,2R,4R)-4-amino-2-(hydroxymethyl)cyclopentanol (0.485 g, 3.69 mmol) (Ho, J. Z.; Mohareb, R. M.; Anh, J. H.; Sim, T. B.; Rapoport, H. J. Org. Chem. 2003, 68, 109-114), 4,6-dichloro-5-(2,2-diethoxyethyl)pyrimidine (0.392 g, 1.48 mmol) (Montgomery, J. A.; Hewson, K. J. Med. Chem. 1967, 10, 665-667) and triethylamine (0.30 mL, 2.22 mmol) in butanol (4 mL) was microwave irradiated at 150° C. for 450 seconds. The solution was concentrated and purified by flash chromatography (100% EtOAc) to give the title compound (0.454 g, 85%).

reactant | (1S,2R,4R)-4-amino-2-(hydroxymethyl)cyclopentanol | 3.69 mmol, 0.485 g | N[C@@H]1C[C@@H]([C@H](C1)O)CO | C6H13NO2
reactant | 4,6-dichloro-5-(2,2-diethoxyethyl)pyrimidine | 1.48 mmol, 0.392 g | ClC1=NC=NC(=C1CC(OCC)OCC)Cl | C10H14Cl2N2O2
reactant | triethylamine | 2.22 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
solvent | butanol | 4 mL | C(CCC)O | C4H10O
product | (1S,2R,4R)-4-{[6-Chloro-5-(2,2-diethoxyethyl)pyrimidin-4-yl]amino}-2-(hydroxymethyl)cyclopentanol | 0.454 g, 85% | ClC1=C(C(=NC=N1)N[C@@H]1C[C@@H]([C@H](C1)O)CO)CC(OCC)OCC | C16H26ClN3O4
